US04080505
In 30 ml of acetone is dissolved 2.6 g of 4-(2-benzoyl-2-propyloxy)aniline and, under cooling with ice and stirring, 3.5 ml of hydrochloric acid, a solution of 0.8 g sodium nitrite in 3 ml water, 7 ml of acrylic acid and 0.7 g of finely divided cuprous chloride are added in the order mentioned. The mixture is stirred at 35° C for 1 hour and at room temperature for 1 hour, after which it is extracted with benzene. The extract is washed three times with water, and then the solvent is distilled off. The residue is dissolved in 10% of aqueous sodium bicarbonate, the solution is washed with benzene and then acidified with hydrochloric acid. The resultant oily substance is extracted with ether and the ether is distilled off to give 2 g of 2-chloro-3-[4-(2-benzoyl-2-propyloxy)phenyl]-propionic acid as a yellow oily substance.

reactant | 4-(2-benzoyl-2-propyloxy)aniline | 2.6 g | C(C1=CC=CC=C1)(=O)C(C)(C)OC1=CC=C(N)C=C1 | C16H17NO2
reactant | hydrochloric acid | 3.5 ml | Cl | ClH
reactant | sodium nitrite | 0.8 g | N(=O)[O-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acrylic acid | 7 ml | C(C=C)(=O)O | C3H4O2
product | 2-chloro-3-[4-(2-benzoyl-2-propyloxy)phenyl]-propionic acid | 2 g | ClC(C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C(C1=CC=CC=C1)=O | C19H19ClO4
